US07723329B2
A solution of toluene-4-sulfonic acid 2-[1-benzyl-3-(naphthalene-1-sulfonyl)-1H-indazol-5-yloxy]-ethyl ester (0.476 g, 0.777 mmol) in 2.0 M methylamine in THF (8.0 mL, 16 mmol) was stirred at 70° C. in a sealed tube for 3 hours. After cooling to ambient temperature and concentrating, the residue was partitioned in ethyl acetate and aqueous sodium bicarbonate. The organic phase was washed with water and brine. It was dried with anhydrous magnesium sulfate, filtered and concentrated. Drying at 80° C. in vacuo for 20 minutes gave {2-[1-benzyl-3-(naphthalene-1-sulfonyl)-1H-indazol-5-yloxy]-ethyl}-methyl-amine as a clear, dark yellow gum (0.324 g, 88.5%). This was dissolved in chloroform, and ethereal hydrochloride was added. The mixture was concentrated and dried at 81° C. in vacuo for 13 hours. The hydrochloride as a light orange foam (0.330 g) resulted; Mass Spectrum (+EI, [M+H]+) m/z 472. 1HNMR (500 MHz, DMSO-d6): δ8.86 (s, 2H), 8.74-8.77 (m, 1H), 8.54-8.56 (m, 1H), 8.27 (d, 1H, J=8.30 Hz), 8.02-8.05 (m, 1H), 7.79 (d, 1H, J=9.15 Hz), 7.70-7.74 (m, 1H), 7.58-7.65 (m, 2H), 7.27 (d, 1H, J=3.30 Hz), 7.09-7.18 (m, 6H), 5.70 (s, 2H), 4.24-4.27 (m, 2H), 2.59 ppm (s, 3H). Elemental Analysis for C27H25N3O3S2.1.00 HCl.0.55 mol H2O: Calcd: C, 62.61; H, 5.27; N, 8.11; Found: C, 62.23; H, 5.45; N, 7.72.

reactant | toluene-4-sulfonic acid 2-[1-benzyl-3-(naphthalene-1-sulfonyl)-1H-indazol-5-yloxy]-ethyl ester | 0.777 mmol, 0.476 g | C(C1=CC=CC=C1)N1N=C(C2=CC(=CC=C12)OCCOS(=O)(=O)C1=CC=C(C=C1)C)S(=O)(=O)C1=CC=CC2=CC=CC=C12 | C33H28N2O6S2
reactant | THF | 16 mmol, 8.0 mL | C1CCOC1 | C4H8O
reactant | methylamine | 2.0 M | CN | CH5N
product | {2-[1-benzyl-3-(naphthalene-1-sulfonyl)-1H-indazol-5-yloxy]-ethyl}-methyl-amine | C(C1=CC=CC=C1)N1N=C(C2=CC(=CC=C12)OCCNC)S(=O)(=O)C1=CC=CC2=CC=CC=C12 | C27H25N3O3S
